US04342587
2-Chloro-N-[(5-chloro-4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-3-pyridinesulfonamide
To a stirred suspension of 1.4 g of 2-amino-5-chloro-5,6-dimethylpyrimidine in 20 ml of dry acetonitrile at room temperature is added 2.2 g of 2-chloropyridine-3-sulfonylisocyanate. The mixture is stirred for several hours, evaporated to dryness and the residue is mixed with 30 ml of water and enough 10% sodium hydroxide to adjust the pH to 11. This mixture is filtered and the filtrate adjusted to pH 7 by the addition of 10% hydrochloric acid and then refiltered. Acidification of this filtrate to pH 2 causes the desired compound to precipitate. The desired compound is filtered off and dried.

reactant | 2-amino-5-chloro-5,6-dimethylpyrimidine | 1.4 g | NC=1N=C(C(CN1)(C)Cl)C | C6H10ClN3
reactant | 2-chloropyridine-3-sulfonylisocyanate | 2.2 g | ClC1=NC=CC=C1S(=O)(=O)N=C=O | C6H3ClN2O3S
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-Chloro-N-[(5-chloro-4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-3-pyridinesulfonamide | ClC1=NC=CC=C1S(=O)(=O)NC(=O)NC1=NC(=C(C(=N1)C)Cl)C | C12H11Cl2N5O3S
